2144-10-19 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did well on continuous nebs overnight
   - flu swab completed
   - had shaking chills and sweats throughout night
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-10-19**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.3
C (95.5
   HR: 84 (74 - 102) bpm
   BP: 104/63(72) {98/62(70) - 114/72(87)} mmHg
   RR: 32 (25 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,175 mL
   Urine:
   1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,175 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 99%
   ABG: 7.28/34/116/19/-9
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious,
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   14.3 g/dL
   250 mg/dL
   2.3 mg/dL
   19 mEq/L
   4.9 mEq/L
   34 mg/dL
   102 mEq/L
   135 mEq/L
   45.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2144-10-18**]  11:06 PM
                            [**2144-10-19**]  03:09 AM
                            [**2144-10-19**]  05:01 AM
   WBC
   6.9
   Hct
   45.1
   Plt
   161
   Cr
   2.3
   TCO2
   17
   17
   Glucose
   250
   Other labs: PT / PTT / INR:13.9/32.2/1.2, Differential-Neuts:91.5 %,
   Lymph:7.2 %, Mono:0.5 %, Eos:0.7 %, Ca++:8.0 mg/dL, Mg++:3.3 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM who presents with influenza like
   symptoms for three days and respiratory distress.
   .
   # Respiratory Distress: likely secondary to influenza and his
   underlying asthma.  Is currently stable with continuous nebs and a
   facemask, but in obvious respiratory distress.
   - started to tire out this morning, intubated now; will place a-line,
   follow ABGs and continue treatment as below
   - solumedrol 125 mg q8hrs
   - levofloxacin q48 hrs with renal dosing for possible PNA; adding vanco
   for ICU CAP
   - oseltamivir 75 mg [**Hospital1 7**] for high dose renal adjustment
   .
   # ARF: likley secondary to poor PO intake and dehydration. Received 2 L
   IVFs in the ED, but with respiratory status, would like to keep
   relatively dry.  FeNa consistent with prerenal.
   - fluid resuccitate PRN, will be gentle
   - echo to evaluate heart function
   .
   # Hyponatremia: Na 128 on admission, likely hypovolemic hyponatremia
   and is secondary to insensible losses from fevers and poor PO intake.
   Normalized today
   .
   # AG Acidosis: unclear etiology, could be secondary to renal failure.
   Lactate normal, no ketones in urine.
   - tox screen
   - LR instead of NS
   .
   # RUQ pain: unclear etiology, does have elevated LFTs and lipase.  See
   below for discussion.
   - pain control with tylenol or morphine PRN
   .
   # Transaminitis/ elevated lipase: mild, last drink was Wed prior to
   [**Holiday **]; transaminitis could be secondary to etoh vs. fatty
   liver.  Could have mild pancreatitis.  Enzymes not high enough to be
   consistent with shock liver.  Could be from mild rhabdo.
   - add CK to labs today
   - trend LFTs
   - RUQ ultrasound today
   .
   # DM: stable, on glyburide at home occassionally.
   - insulin sliding scale
   .
   # HTN: is normotensive, will infection, will hold antihypertensives
   tonight and add back on as needed
   .
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: tube feeds
   # Access: PIVs
 CVL if hemodynamically unstable
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-10-18**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-19 09:40:00 Physician Attending Progress Note
Chief Complaint: Dyspnea and wheeze
   HPI:
    Admitted overnight for dyspnea and likely asthma exacerbation in
   setting of viral syndrome.
   24 Hour Events:
   Admitted overnight, stable on nasal cannula oxygen.  Stable ABGs.
   Afebrile overnight, hemodynamically stable; however, has increasing
   tachycardia and work of breathing this morning.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) Rash;
   Tetracycline Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape) Rash;
   Latex Rash;
   Iodine Wheezing; Short
   Antibiotics:
   Oseltamivir 75mg daily
   Levofloxacin 750mg daily
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-10-19**] 12:30 AM
   Other medications:
   Demerol (for rigors)
   Solumedrol 125mg q8h
   Amitryptiline
   Continuous nebs
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-19**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.3
C (95.5
   HR: 84 (74 - 102) bpm
   BP: 104/63(72) {98/62(70) - 114/72(87)} mmHg
   RR: 32 (25 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,175 mL
   Urine:
   1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,175 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 99%
   ABG: 7.28/34/116/19/-9
   Physical Examination
   Gen:  Respiratory distress
   Chest:  Diffuse wheeze and use of respiratory muscles.  Crackles in
   posterior/inferior fields.
   CV:  Tachy, regular, no appreciable murmur/gallop
   Abd: s/nt/nd; + abdminal paradox and rounding up with use of abdominal
   muscles for forced exhalation.
   Ext: minimal edema
   Labs / Radiology
   14.3 g/dL
   161 K/uL
   250 mg/dL
   2.3 mg/dL
   19 mEq/L
   4.9 mEq/L
   34 mg/dL
   102 mEq/L
   135 mEq/L
   45.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2144-10-18**]  11:06 PM
                            [**2144-10-19**]  03:09 AM
                            [**2144-10-19**]  05:01 AM
   WBC
   6.9
   Hct
   45.1
   Plt
   161
   Cr
   2.3
   TCO2
   17
   17
   Glucose
   250
   Other labs: PT / PTT / INR:13.9/32.2/1.2, Differential-Neuts:91.5 %,
   Lymph:7.2 %, Mono:0.5 %, Eos:0.7 %, Ca++:8.0 mg/dL, Mg++:3.3 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
   51yoM with h/o asthma admitted for exacerbation and possible viral
   infection.
   1.       Asthma: Acutely worsening over past several hours with exam
   indicative of respiratory distress
   - plan intubation given worsening respiratory status
   - Solumedrol 125mg q8h, continuous nebs, can consider magnesium
   - Plan to ventilate with VC, long E time and high inspiratory flow.  RR
   14-15 and monitor for autopeep.
   2.       ID:  Awaiting viral studies, treatment for antibiotics
   - F/u H1N1 testing and DFA.  Send lower respiratory tract sample for
   DFA.
   - Check CK given possible H1N1
   - Add vancomycin while awaiting culture data.
   - Continue levofloxacin and oseltamivir
   3.       Renal:  ARF, improving with fluids: likely hypovolemic.
   Suspect metabolic acidosis from renal failure.  No lactate.
   - check serum osms; repeat lactate, tox screen
   4.       Access:  Place art-line given intubation and need for frequent
   ABGs
   ICU Care
   Nutrition: Currently NPO, will start tube feeds once intubated
   Glycemic Control:  Sliding scale insulin, monitor FSG with solumedrol.
   Lines:
   18 Gauge - [**2144-10-18**] 10:03 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  Start H2-blocker
   VAP:  HOB/peridex/mouth care
   Communication:  Will update family today and obtain ICU consent.
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent: 35min; patient is critically ill

2144-10-20 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-10-19**] 09:37 AM
 ULTRASOUND - At [**2144-10-19**] 12:00 PM
   [**Last Name (un) **] U/S
 ARTERIAL LINE - START [**2144-10-19**] 02:53 PM
 FEVER - 101.7
F - [**2144-10-19**] 11:00 AM
   Very hard to ventilate, fighting vent on CMV/PS/PCV/MMV.  Apnic with
   invreased sedation.  Decided to tolerate acidosis rather than risk
   steroids+paralysis.
   Continued with low UOP.  FeNa down to 0.11 with Hyalin casts.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-19**] 11:02 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2144-10-19**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-20**] 02:00 AM
   Midazolam (Versed) - [**2144-10-20**] 05:18 AM
   Fentanyl - [**2144-10-20**] 05:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-20**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.4
C (97.5
   HR: 83 (82 - 115) bpm
   BP: 101/55(69) {94/51(64) - 108/69(81)} mmHg
   RR: 16 (8 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,104 mL
                                                                  2,139 mL
   PO:
             TF:
                                                                     95 mL
                                                                      5 mL
   IVF:
                                                                  3,720 mL
                                                                  2,135 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    232 mL
   Urine:
                                                                  2,005 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,099 mL
                                                                  1,907 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 956 (686 - 956) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: -100 cmH2O/mL
   SpO2: 98%
   ABG: 7.21/51/130/20/-7
   Ve: 10.5 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Intubated
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   11.2 g/dL
   253 mg/dL
   2.6 mg/dL
   20 mEq/L
   4.6 mEq/L
   42 mg/dL
   104 mEq/L
   135 mEq/L
   35.5 %
   14.3 K/uL
        [image002.jpg]
                            [**2144-10-19**]  03:09 AM
                            [**2144-10-19**]  05:01 AM
                            [**2144-10-19**]  12:01 PM
                            [**2144-10-19**]  02:49 PM
                            [**2144-10-19**]  03:09 PM
                            [**2144-10-19**]  10:05 PM
                             [**2144-10-20**]  12:48 AM
                             [**2144-10-20**]  03:41 AM
                             [**2144-10-20**]  03:52 AM
                             [**2144-10-20**]  06:27 AM
   WBC
   6.9
   14.3
   Hct
   45.1
   35.5
   Plt
   161
   159
   Cr
   2.3
   2.1
   2.6
   TCO2
   17
   17
   17
   20
   20
   21
   21
   Glucose
   [**Telephone/Fax (3) 11857**]
   Other labs: PT / PTT / INR:12.6/31.4/1.1, CK / CKMB /
   Troponin-T:6958//, ALT / AST:46/91, Alk Phos / T Bili:49/0.2, Amylase /
   Lipase:/46, Differential-Neuts:97.7 %, Lymph:1.5 %, Mono:0.4 %, Eos:0.3
   %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:450 IU/L, Ca++:7.6
   mg/dL, Mg++:2.7 mg/dL, PO4:5.4 mg/dL
[**2144-10-19**] 10:09 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2144-10-19**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
[**2144-10-18**] 11:57 pm Influenza A/B by DFA
      Source: Nasopharyngeal swab.
   DIRECT INFLUENZA A ANTIGEN TEST (Preliminary):
      REPORTED BY PHONE TO [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] ON [**2144-10-19**] AT 3:19PM.
      POSITIVE FOR INFLUENZA A VIRAL ANTIGEN.
            Specimen sent to State Laboratory for further testing.
   Liver Ultrasound:
   1. Echogenic liver consistent with fatty infiltration. Other forms of
   liver
   disease and more advanced liver disease including significant hepatic
   fibrosis/cirrhosis cannot be excluded on this study.
   2. Cholelithiasis with no sign of cholecystitis.
   3. Persistent right hydronephrosis.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM who presents with influenza like
   symptoms for three days and respiratory distress.
   .
   # Respiratory Distress: Intubated with difficulty tolerating vent
   - will attempt to improve ventilation with increased sedation (prop,
   vers, fent) and adjust vent (increase flow time I:E, tolerate increased
   peak pressures, decrease respiratory rate, Peep to 0).
   - start NMBAs severe acidemia
   - solumedrol 125 mg q8hrs, continuous high-dose nebs
   - levofloxacin q48 hrs with renal dosing for possible PNA; adding vanco
   for ICU CAP
   - oseltamivir 75 mg [**Hospital1 7**] for high dose renal adjustment
   .
   # ARF: likley secondary to poor PO intake and dehydration. Received 2 L
   IVFs in the ED, but with respiratory status, would like to keep
   relatively dry.  FeNa consistent with prerenal and worsening.  UOP
   response to IVF
   - fluid resuccitate titrate to UOP
   - check CVP
   - echo to evaluate heart function
   .
   # Hyponatremia: Na 128 on admission, likely hypovolemic hyponatremia
   and is secondary to insensible losses from fevers and poor PO intake.
   Normalized today
   .
   # AG Acidosis: unclear etiology, could be secondary to renal failure.
   Lactate normal, no ketones in urine.
   - tox screen
   - LR instead of NS
   .
   # RUQ pain: unclear etiology, does have elevated LFTs and lipase.  See
   below for discussion.
   - pain control with tylenol or morphine PRN
   .
   # Transaminitis/ elevated lipase: mild, last drink was Wed prior to
   [**Holiday **]; transaminitis could be secondary to etoh vs. fatty
   liver.  Could have mild pancreatitis.  Enzymes not high enough to be
   consistent with shock liver.  Could be from mild rhabdo.
   - add CK to labs today
   - trend LFTs
   - RUQ ultrasound today
   .
   # DM: stable, on glyburide at home occassionally.
   - insulin sliding scale
   .
   # HTN: is normotensive, will infection, will hold antihypertensives
   tonight and add back on as needed
   .
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: tube feeds
   # Access: PIVs
 Needs a CVL
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-10-18**] 10:03 PM
   20 Gauge - [**2144-10-19**] 10:58 AM
   Arterial Line - [**2144-10-19**] 02:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-20 10:16:00 Physician Attending Progress Note
HPI:
   51yoM with asthma and H1N1 infection.  Intubated on [**10-19**] for
   respiratory distress.
   24 Hour Events:
   Difficult to ventilate overnight with worsening respiratory acidosis.
   Increased sedation without significant improvement.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) Rash;
   Tetracycline Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape) Rash;
   Latex Rash;
   Iodine Wheezing;
   Short Demerol (Injection) (Meperidine Hcl) Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-19**] 11:02 AM
   Levofloxacin
   Oseltamivir
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-10-20**] 09:37 AM
   Bronchodilators
   Other medications:
   Solumedrol 125mg q8h
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-20**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.1
C (98.8
   HR: 90 (82 - 115) bpm
   BP: 116/64(79) {94/51(64) - 116/69(81)} mmHg
   RR: 19 (8 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  4,104 mL
                                                                  2,184 mL
   PO:
             TF:
                                                                     95 mL
                                                                      5 mL
   IVF:
                                                                  3,720 mL
                                                                  2,180 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    497 mL
   Urine:
                                                                  2,005 mL
                                                                    297 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,099 mL
                                                                  1,687 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 956 (686 - 956) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   SpO2: 97%
   ABG: 7.21/51/130/20/-7
   Ve: 11.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: heavily sedated, RASS -4
   Chest:  Diffuse wheeze and upper lobe rhonchi.  No crackles
   CV:  Regular, tachy, no murmur
   Abd:  contraction of abd muscles with forced exhalation
   Ext: no edema
   Labs / Radiology
   11.2 g/dL
   159 K/uL
   253 mg/dL
   2.6 mg/dL
   20 mEq/L
   4.6 mEq/L
   42 mg/dL
   104 mEq/L
   135 mEq/L
   35.5 %
   14.3 K/uL
        [image002.jpg]
                            [**2144-10-19**]  03:09 AM
                            [**2144-10-19**]  05:01 AM
                            [**2144-10-19**]  12:01 PM
                            [**2144-10-19**]  02:49 PM
                            [**2144-10-19**]  03:09 PM
                            [**2144-10-19**]  10:05 PM
                             [**2144-10-20**]  12:48 AM
                             [**2144-10-20**]  03:41 AM
                             [**2144-10-20**]  03:52 AM
                             [**2144-10-20**]  06:27 AM
   WBC
   6.9
   14.3
   Hct
   45.1
   35.5
   Plt
   161
   159
   Cr
   2.3
   2.1
   2.6
   TCO2
   17
   17
   17
   20
   20
   21
   21
   Glucose
   [**Telephone/Fax (3) 11857**]
   Other labs: PT / PTT / INR:12.6/31.4/1.1, CK / CKMB /
   Troponin-T:6958//, ALT / AST:46/91, Alk Phos / T Bili:49/0.2, Amylase /
   Lipase:/46, Differential-Neuts:97.7 %, Lymph:1.5 %, Mono:0.4 %, Eos:0.3
   %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:450 IU/L, Ca++:7.6
   mg/dL, Mg++:2.7 mg/dL, PO4:5.4 mg/dL
   Micro: +influenza; Sputum: with gram positive organisms.
   Assessment and Plan
   51yoM with asthma exacerbation secondary H1N1
   1.  Respiratory failure secondary to asthma: worsening respiratory
   acidosis secondary to increased dead space and autopeep.
   - Decrease RR once sedated, increase flow time/decrease inspiratory
   time, PEEP 0
   - Solumedrol 125mg q8h
   - Increase sedation
   - Continuous nebs
   - TTE today, f/u results
   2.  H1N1:
   - Oseltamivir as long as is tolerating tube feeds, will consider
   peramivir if enteral feeds not tolerated
   - d/c other antibiotics if cultures are unrevealing today
   3. Renal: urine sediment, UA, urine lytes suggest pre-renal.
   Hypovolemia/pre-renal versus intrinsic related to H1N1 infection
   - Volume today and f/u UOP and Cr later today
   - Suspect metabolic acidosis secondary to renal failure
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:  Elevated glucose
   Lines:  Plan central line today (IJ given risk of PTX with
   hyperinflation)
   18 Gauge - [**2144-10-18**] 10:03 PM
   20 Gauge - [**2144-10-19**] 10:58 AM
   Arterial Line - [**2144-10-19**] 02:53 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP: HOB/peridex/mouthcare
   Communication:  Will update family today regarding status
   Code status: Full code
   Disposition : Remains critically ill in ICU
   Total time spent: 45 minutes CCT

2144-10-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 51 y/o M with hx of asthma, CKD, DM who presents with
   influenza and respiratory failure
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-10-20**] 09:30 AM
 MULTI LUMEN - START [**2144-10-20**] 02:31 PM
   Paralyzed [**12-23**] fighting vent on high doses of fent/midaz/propofol and
   desatting.
   CVL placed.
   Uptitrated his SSI
   Sputum culture grew commensals
   Dropped pressures w/ sedation and was transiently started on pressors
   but weened off after fluid resucitation.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-20**] 09:54 AM
   Levofloxacin - [**2144-10-20**] 06:00 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.04 mg/Kg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-10-21**] 12:42 AM
   Cisatracurium - [**2144-10-21**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 102 (74 - 102) bpm
   BP: 98/50(65) {77/45(55) - 118/67(83)} mmHg
   RR: 0 (0 - 19) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  6,329 mL
                                                                    469 mL
   PO:
             TF:
                                                                     22 mL
                                                                     68 mL
   IVF:
                                                                  6,178 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  2,687 mL
                                                                    965 mL
   Urine:
                                                                  2,292 mL
                                                                    965 mL
   NG:
                                                                    395 mL
   Stool:
   Drains:
   Balance:
                                                                  3,642 mL
                                                                   -496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.23/55/76.[**Numeric Identifier 126**]/23/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   10.7 g/dL
   194 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   33 mg/dL
   111 mEq/L
   141 mEq/L
   34.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2144-10-20**]  03:41 AM
                             [**2144-10-20**]  03:52 AM
                             [**2144-10-20**]  06:27 AM
                             [**2144-10-20**]  10:01 AM
                             [**2144-10-20**]  01:03 PM
                             [**2144-10-20**]  05:32 PM
                             [**2144-10-20**]  09:08 PM
                             [**2144-10-21**]  03:19 AM
                             [**2144-10-21**]  03:26 AM
                             [**2144-10-21**]  06:28 AM
   WBC
   14.3
   10.0
   Hct
   35.5
   34.1
   Plt
   159
   162
   Cr
   2.6
   1.8
   TCO2
   21
   21
   22
   22
   20
   23
   24
   24
   Glucose
   253
   194
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:6958//, ALT / AST:38/57, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/46, Differential-Neuts:97.7 %, Lymph:1.5 %, Mono:0.4 %, Eos:0.3
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:327 IU/L, Ca++:7.5
   mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   CXR: my read: slight worsening of opacities. Tubes and lines in good
   position.
   Cx data:
GRAM STAIN (Final [**2144-10-19**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    SINGLY AND IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM who presents with influenza like
   symptoms for three days and respiratory distress.
   .
   # Respiratory Distress: Intubated with difficulty tolerating vent
   - continue paralytics and continue to adjust vent (increase flow time
   I:E, tolerate increased peak pressures, decrease respiratory rate, Peep
   to 0).
   - continue high dose sedation
   - solumedrol 125 mg q8hrs, continuous high-dose nebs
   - levofloxacin q48 hrs with renal dosing for possible PNA; adding vanco
   for ICU CAP
   - oseltamivir 75 mg [**Hospital1 7**] for high dose renal adjustment
   .
   # ARF: Urine chemistries c/w pre-renal.  Unlikely flu related.  UOP and
   creatinine with good response to IVF
   - aggressive fluid resuscitation titrate to UOP
   - echo shows normal EF and hyperdynamic heart
   .
   # Hyponatremia: Na 128 on admission, likely hypovolemic hyponatremia
   and is secondary to insensible losses from fevers and poor PO intake.
   Normalized today
   .
   # AG Acidosis: Likely secondary to renal failure.  Lactate normal, no
   ketones in urine.  Salacylates normal. Now normalized
   - LR instead of NS for any fluid rescuscitation
   .
   # Transaminitis/ elevated lipase: mild, last drink was Wed prior to
   [**Holiday **]; transaminitis could be secondary to etoh vs. fatty
   liver.  Could have mild pancreatitis.  Enzymes not high enough to be
   consistent with shock liver.  Could be from mild rhabdo.  RUQ u/s
   unrevealing and labs improving
   - trend LFTs
   .
   # DM: stable, on glyburide at home occassionally.
   - insulin sliding scale
   .
   # HTN: is normotensive, will infection, will hold antihypertensives
   tonight and add back on as needed
   .
   ICU Care
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: tube feeds
   # Access: Needs a CVL
   18 Gauge - [**2144-10-18**] 10:03 PM
   20 Gauge - [**2144-10-19**] 10:58 AM
   Arterial Line - [**2144-10-19**] 02:53 PM
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   20 Gauge - [**2144-10-20**] 11:36 AM
   18 Gauge - [**2144-10-20**] 11:37 AM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2144-10-21 09:12:00 Physician Attending Progress Note
HPI:
   51yoM with asthma exacerbation secondary to H1N1
   24 Hour Events:
   Required paralysis overnight secondary to worsening hypoxemia and
   ventilator dysynchrony.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-10-20**] 06:00 PM
   Vancomycin - [**2144-10-21**] 07:54 AM
   Oseltamivir
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Propofol
   Cisatracurium - 0.04 mg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-21**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-21**] 07:54 AM
   Albuterol neb q2h
   Chlorhexidine
   Other medications:
   Solumedrol 125mg q8h
   Sertraline 200mg daily
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2144-10-21**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 92 (74 - 102) bpm
   BP: 112/66(80) {77/45(55) - 118/67(83)} mmHg
   RR: 23 (0 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
             Total In:
                                                                  6,329 mL
                                                                    869 mL
   PO:
             TF:
                                                                     22 mL
                                                                     68 mL
   IVF:
                                                                  6,178 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  2,687 mL
                                                                    990 mL
   Urine:
                                                                  2,292 mL
                                                                    990 mL
   NG:
                                                                    395 mL
   Stool:
   Drains:
   Balance:
                                                                  3,642 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.23/55/76
   Ve: 10.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Gen:
   Labs / Radiology
   10.7 g/dL
   162 K/uL
   194 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   33 mg/dL
   111 mEq/L
   141 mEq/L
   34.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2144-10-20**]  03:41 AM
                             [**2144-10-20**]  03:52 AM
                             [**2144-10-20**]  06:27 AM
                             [**2144-10-20**]  10:01 AM
                             [**2144-10-20**]  01:03 PM
                             [**2144-10-20**]  05:32 PM
                             [**2144-10-20**]  09:08 PM
                             [**2144-10-21**]  03:19 AM
                             [**2144-10-21**]  03:26 AM
                             [**2144-10-21**]  06:28 AM
   WBC
   14.3
   10.0
   Hct
   35.5
   34.1
   Plt
   159
   162
   Cr
   2.6
   1.8
   TCO2
   21
   21
   22
   22
   20
   23
   24
   24
   Glucose
   253
   194
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:6958//, ALT / AST:38/57, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/46, Differential-Neuts:97.7 %, Lymph:1.5 %, Mono:0.4 %, Eos:0.3
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:327 IU/L, Ca++:7.5
   mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Micro:
   Sputum: oral flora on culture
   Blood cultures: negative
   Flu +, H1N1 pcr pending
   CXR:  Worsening LLL/lingular air
   Assessment and Plan
   51yoM with asthma and exacerbation secondary to H1N1.
   1. Asthma:
   - continuous nebs
   - steroids
   - Trial off nimbex this afternoon
   - Allow autodiuresis
   2.  Hypoxemia: Technically ARDS by CXR, normal TTE, P/F ratio
   -  Back off to 7ml/kg Vt, rpt ABG, and if acceptable will decrease to
   6ml/kg.  Limited by inability to increase RR significantly.
   3.  ID: + flu
   - d/c vancomycin and levofloxacin
   - Plan 10d course of oseltamivir; if cannot tolerate from GI
   perspective will switch to peramivir
   4. Renal: Appears volume replete
   - Run euvoleumic to auto-diuresis today.
   - f/u Cr tomorrow
   5. Neuro:
   - Trial of wean benzos
   - check triglycerides today for propofol
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Sliding scale
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   20 Gauge - [**2144-10-20**] 11:36 AM
   18 Gauge - [**2144-10-20**] 11:37 AM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: heparin/teds/boots
   Stress ulcer:  H2
   VAP:  HOB/peridex/mouth care
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  40 minutes CCT

2144-10-22 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Paralytics turned off at 1:30 pm and was doing well until about 7:30pm.
   Had another episode of acute resistance against the vent, ? muscular
   vs. acute autopeep/stacking. Failed increased sedation, restarted
   paralytic.
   Changed fentanyl to dilaudid drip out of concern for "frozen chest"
   Started on Lantus for elevated BS
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) Rash;
   Tetracycline Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape) Rash;
   Latex Rash;
   Iodine Wheezing; Short
   Demerol (Injection) (Meperidine Hcl) Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-10-20**] 06:00 PM
   Vancomycin - [**2144-10-21**] 07:54 AM
   Tamiflu - [**2144-10-21**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Hydromorphone (Dilaudid) - 5 mg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-21**] 08:00 PM
   Midazolam (Versed) - [**2144-10-21**] 08:27 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 85 (81 - 92) bpm
   BP: 126/64(82) {93/48(61) - 126/66(85)} mmHg
   RR: 20 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 10 (4 - 12)mmHg
   Total In:
                                                                  2,277 mL
                                                                    849 mL
   PO:
   TF:
                                                                    266 mL
                                                                    113 mL
   IVF:
                                                                  1,901 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                  1,715 mL
   Urine:
                                                                  2,690 mL
                                                                  1,715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                   -866 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 480) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.29/52/96.[**Numeric Identifier 181**]/23/-1
   Ve: 10 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: No acute distress, paralyzed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: RRR no m/r/g
   Respiratory / Chest: Wheezing, poor air movement.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Labs / Radiology
   195 K/uL
   10.0 g/dL
   284 mg/dL
   1.8 mg/dL
   23 mEq/L
   5.3 mEq/L
   35 mg/dL
   110 mEq/L
   140 mEq/L
   30.9 %
   2.5 K/uL
        [image002.jpg]
                             [**2144-10-20**]  05:32 PM
                             [**2144-10-20**]  09:08 PM
                             [**2144-10-21**]  03:19 AM
                             [**2144-10-21**]  03:26 AM
                             [**2144-10-21**]  06:28 AM
                             [**2144-10-21**]  09:44 AM
                             [**2144-10-21**]  09:57 PM
                             [**2144-10-22**]  03:20 AM
                             [**2144-10-22**]  03:30 AM
                             [**2144-10-22**]  03:54 AM
   WBC
   10.0
   2.5
   2.5
   Hct
   34.1
   30.5
   30.9
   Plt
   162
   184
   195
   Cr
   1.8
   1.8
   TCO2
   20
   23
   24
   24
   23
   25
   26
   Glucose
   194
   284
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:6958//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/37, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:7.5
   mg/dL, Mg++:3.0 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR
   Microbiology: No new growth
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM who presents with influenza like
   symptoms for three days and respiratory distress.
   .
   # Respiratory Distress: Intubated with difficulty tolerating vent last
   night requiring addition of versed and then paralytics. Looks much
   better on paralytics.  He remains off antibiotics.  He has been on
   solumedrol 125 mg q8hrs
   - attempt to minimize length of paralytics
   - continue high dose sedation
   - wean steroids to 60 prednisone daily
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment
   - transition to pulmonary tube feeds to decrease RQ
   .
   # Shock: transient hypotension requiring mild Neosynepherin yesterday.
    Likely from sedation and propofol.
   .
   # ARF: Cr resolved to 1.8 with aggressive hydration.  Urine lytes c/w
   pre-renal.  [**Month (only) 51**] have some compenent of ATN.
   - Continue to monitor, maintain euvolemia
   .
   # Hyponatremia: Na 128 on admission, likely hypovolemic hyponatremia
   and is secondary to insensible losses from fevers and poor PO intake.
   Normalized.
   .
   # AG Acidosis: Resolved with resolution of acute renal failure.
   - LR instead of NS for any fluid rescuscitation
   .
   # Transaminitis/ elevated lipase:  Resolved.  Initially had mild
   elevations, likely from flu.  Last drink was Wed prior to [**Holiday **];
   transaminitis could be secondary to etoh vs. fatty liver.  Could have
   mild pancreatitis.  Enzymes not high enough to be consistent with shock
   liver.  RUQ u/s unrevealing.
   .
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   - insulin sliding scale + glargine
   - uptitrate PRN
   .
   # HTN: is hypotensive, with infection, will hold antihypertensives and
   add back on as needed
   .
   ICU Care
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: ompeprazole
   bowel reg PRN
   Glycemic Control:  Regular insulin sliding scale
   Nutrition:  NovaSource Pulmonary (Full) - [**2144-10-21**] 10:45 AM 15
   mL/hour
   Access:
   Arterial Line - [**2144-10-19**] 02:53 PM
   20 Gauge - [**2144-10-20**] 11:36 AM
   18 Gauge - [**2144-10-20**] 11:37 AM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**], ICU
   Code: full, confirmed
   Dispo: ICU for now

2144-10-22 09:48:00 Physician Attending Progress Note
HPI:
    51yoM with asthma here with exacerbation secondary to H1N1
   24 Hour Events:
   Required paralytics overnight after having been halted yesterday
   afternoon.  Events leading to re-paralysis were development of
   significant and acute autopeep with difficulty ventilating and
   oxygenating.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) Rash;
   Tetracycline Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape) Rash;
   Latex Rash;
   Iodine Wheezing;
   Short Demerol (Injection) (Meperidine Hcl) Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-21**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.09 mg/Kg/hour
   Hydromorphone (Dilaudid) - 5 mg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-22**] 12:00 AM
   Other medications:
   Solumedrol 125mg q8h
   Zoloft
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-22**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 84 (81 - 92) bpm
   BP: 135/68(88) {93/48(61) - 135/68(88)} mmHg
   RR: 20 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 11 (4 - 12)mmHg
   Total In:
                                                                  2,277 mL
                                                                  1,285 mL
   PO:
   TF:
                                                                    266 mL
                                                                    141 mL
   IVF:
                                                                  1,901 mL
                                                                    914 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                  2,175 mL
   Urine:
                                                                  2,690 mL
                                                                  2,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                   -890 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.29/52/96
   Ve: 8.8 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Gen: Somnolent/paralyzed
   Chest: scant wheeze today anterior sounds
   CV: RRR, no audible murmur
   Abd: s/nt/nd, no abdominal muscle contraction with forced exhalation
   Ext: No significant edema
   Labs / Radiology
   10.0 g/dL
   195 K/uL
   284 mg/dL
   1.8 mg/dL
   23 mEq/L
   5.3 mEq/L
   35 mg/dL
   110 mEq/L
   140 mEq/L
   30.9 %
   2.5 K/uL
        [image002.jpg]
                             [**2144-10-20**]  05:32 PM
                             [**2144-10-20**]  09:08 PM
                             [**2144-10-21**]  03:19 AM
                             [**2144-10-21**]  03:26 AM
                             [**2144-10-21**]  06:28 AM
                             [**2144-10-21**]  09:44 AM
                             [**2144-10-21**]  09:57 PM
                             [**2144-10-22**]  03:20 AM
                             [**2144-10-22**]  03:30 AM
                             [**2144-10-22**]  03:54 AM
   WBC
   10.0
   2.5
   2.5
   Hct
   34.1
   30.5
   30.9
   Plt
   162
   184
   195
   Cr
   1.8
   1.8
   TCO2
   20
   23
   24
   24
   23
   25
   26
   Glucose
   194
   284
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:6958//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/37, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:7.5
   mg/dL, Mg++:3.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   51yoM with asthma exacerbation with H1N1
   1. Respiratory failure secondary to asthma:
   - continue bronchodilators aggressively
   - Decrease steroids to 60mg daily
   - Decrease rate to 18, follow ABG.
   - Trial off paralytics today
   - Treating H1N1
   2.  H1N1:
   - Oseltamivir, tolerating enteral administration
   3.  Renal:  Cr improving, adequate urine output
   - Allow euvoluemic to negative today  with auto-diuresis
   4. Elevated CK: H1N1 infection
   - Recheck CK
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2144-10-21**] 10:45 AM 15 mL/hour
   Glycemic Control:  Sliding scale insulin, expect improvement with lower
   steroids
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   18 Gauge - [**2144-10-20**] 11:37 AM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   VAP:  HOB/mouthcare/peridex
   Communication:  Comments:
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  45minutes CCT

2144-10-23 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Attempted d/c of paralytics resulting in desat to 80s.
    Restarted 1 hr later.
    Up titrated ISS.
    CK much improved 1230 from 7000.
    Kayexalate for mild hyperkalemia.
    Steroids tapered to prednisone 60.
    CVL pulled back.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-10-20**] 06:00 PM
   Vancomycin - [**2144-10-21**] 07:54 AM
   Tamiflu - [**2144-10-22**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Hydromorphone (Dilaudid) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-10-22**] 11:30 AM
   Propofol - [**2144-10-22**] 11:30 AM
   Famotidine (Pepcid) - [**2144-10-22**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-23**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-23**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 85 (80 - 100) bpm
   BP: 155/79(103) {115/60(77) - 155/79(103)} mmHg
   RR: 10 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 8 (5 - 13)mmHg
   Total In:
                                                                  3,075 mL
                                                                    646 mL
   PO:
   TF:
                                                                    360 mL
                                                                    108 mL
   IVF:
                                                                  2,305 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                  1,295 mL
   Urine:
                                                                  4,215 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,140 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/60/103/28/1
   Ve: 8.6 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   10.0 g/dL
   257 mg/dL
   1.6 mg/dL
   28 mEq/L
   5.5 mEq/L
   34 mg/dL
   110 mEq/L
   145 mEq/L
   30.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2144-10-21**]  06:28 AM
                             [**2144-10-21**]  09:44 AM
                             [**2144-10-21**]  09:57 PM
                             [**2144-10-22**]  03:20 AM
                             [**2144-10-22**]  03:30 AM
                             [**2144-10-22**]  03:54 AM
                             [**2144-10-22**]  01:05 PM
                             [**2144-10-22**]  04:07 PM
                             [**2144-10-23**]  04:13 AM
                             [**2144-10-23**]  04:37 AM
   WBC
   2.5
   2.5
   4.7
   Hct
   30.5
   30.9
   30.3
   Plt
   184
   195
   223
   Cr
   1.8
   1.6
   1.6
   TCO2
   24
   23
   25
   26
   29
   32
   Glucose
   [**Telephone/Fax (3) 11915**]
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/37, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:8.6
   mg/dL, Mg++:2.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   51 y/o M with hx of asthma, CKD, DM who presents with influenza like
   symptoms for three days and respiratory distress.
   .
   # Respiratory Distress: Intubated with difficulty tolerating vent last
   night requiring addition of versed and then paralytics. Looks much
   better on paralytics.  He remains off antibiotics.  He has been on
   solumedrol 125 mg q8hrs
   - attempt to minimize length of paralytics
   - continue high dose sedation
   - wean steroids to 60 prednisone daily
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment
   - transition to pulmonary tube feeds to decrease RQ
   .
   # Shock: transient hypotension requiring mild Neosynepherin yesterday.
   Likely from sedation and propofol.
   .
   # ARF: Cr resolved to 1.8 with aggressive hydration.  Urine lytes c/w
   pre-renal.  [**Month (only) 51**] have some compenent of ATN.
   - Continue to monitor, maintain euvolemia
   .
   # Hyponatremia: Na 128 on admission, likely hypovolemic hyponatremia
   and is secondary to insensible losses from fevers and poor PO intake.
   Normalized.
   .
   # AG Acidosis: Resolved with resolution of acute renal failure.
   - LR instead of NS for any fluid rescuscitation
   .
   # Transaminitis/ elevated lipase:  Resolved.  Initially had mild
   elevations, likely from flu.  Last drink was Wed prior to [**Holiday **];
   transaminitis could be secondary to etoh vs. fatty liver.  Could have
   mild pancreatitis.  Enzymes not high enough to be consistent with shock
   liver.  RUQ u/s unrevealing.
   .
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   - insulin sliding scale + glargine
   - uptitrate PRN
   .
   # HTN: is hypotensive, with infection, will hold antihypertensives and
   add back on as needed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-22**] 03:37 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   18 Gauge - [**2144-10-20**] 11:37 AM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-23 11:52:00 Physician Attending Progress Note
HPI:  51yoM with asthma here with H1N1 and exacerbation.
   24 Hour Events:
   Remained paralyzed overnight.  No significant change.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-22**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Hydromorphone (Dilaudid) - 5 mg/hour
   Propofol
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-22**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-23**] 12:12 AM
   Other medications:
   Sertraline
   Albuterol
   Prednisone 60mg dailiy
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-23**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 102 (80 - 108) bpm
   BP: 159/77(107) {120/60(77) - 164/84(109)} mmHg
   RR: 20 (0 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 0 (0 - 13)mmHg
   Total In:
                                                                  3,075 mL
                                                                    952 mL
   PO:
   TF:
                                                                    360 mL
                                                                    173 mL
   IVF:
                                                                  2,305 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                  1,665 mL
   Urine:
                                                                  4,215 mL
                                                                  1,665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,140 mL
                                                                   -713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/60/103/28/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   223 K/uL
   257 mg/dL
   1.6 mg/dL
   28 mEq/L
   5.5 mEq/L
   34 mg/dL
   110 mEq/L
   145 mEq/L
   30.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2144-10-21**]  06:28 AM
                             [**2144-10-21**]  09:44 AM
                             [**2144-10-21**]  09:57 PM
                             [**2144-10-22**]  03:20 AM
                             [**2144-10-22**]  03:30 AM
                             [**2144-10-22**]  03:54 AM
                             [**2144-10-22**]  01:05 PM
                             [**2144-10-22**]  04:07 PM
                             [**2144-10-23**]  04:13 AM
                             [**2144-10-23**]  04:37 AM
   WBC
   2.5
   2.5
   4.7
   Hct
   30.5
   30.9
   30.3
   Plt
   184
   195
   223
   Cr
   1.8
   1.6
   1.6
   TCO2
   24
   23
   25
   26
   29
   32
   Glucose
   [**Telephone/Fax (3) 11915**]
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/37, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:8.6
   mg/dL, Mg++:2.8 mg/dL, PO4:3.5 mg/dL
   Micro: no new data
   CXR: Minimal left lower lobe opacity
   Assessment and Plan
   51yoM with asthma and H1N1
   1.       Respiratory failure secondary to asthma, also [**Doctor Last Name 11**]:  Has
   required paralysis for last 48hours.
   - Bronchoscopy to evaluate ETT
   - Trial off paralytics; would decrease rate to 14, increase Vt to 550ml
   for obstruction
   - continue prednisone 60mg daily
   - nebulized albuterol
   2.       DM: glucose above goal.
   - start insulin drip; goal glucose 150
   3.       Renal: Improved renal function
           - run TBB negative with lasix for diuresis
   4. H1N1:
   - completing 10 of oseltamivir
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2144-10-23**] 07:37 AM 15 mL/hour
   Glycemic Control:  Start insulin drip
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: HOB/peridex/mouthcare
   Communication:  Update family today
   Code status: Full code
   Disposition : Remains in ICU, critically ill
   Total time spent: 35minutes CCT

2144-10-24 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory Failue
   24 Hour Events:
 BRONCHOSCOPY - At [**2144-10-23**] 12:49 PM
   Started on insulin ggt for continued hyperglycemia in the 200s.
   Attempted d/c paralytics but failed
   Some bloody NGT output Stopped famotidine, started pantoprazole
   History obtained from Medical records
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-21**] 07:54 AM
   Tamiflu - [**2144-10-22**] 08:30 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Propofol - 80 mcg/Kg/min
   Hydromorphone (Dilaudid) - 9 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2144-10-23**] 02:20 PM
   Furosemide (Lasix) - [**2144-10-23**] 02:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-24**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 73 (73 - 118) bpm
   BP: 159/80(107) {131/69(88) - 171/84(111)} mmHg
   RR: 20 (0 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 7 (0 - 9)mmHg
   Total In:
                                                                  2,632 mL
                                                                  1,531 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  2,366 mL
                                                                  1,531 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                  1,380 mL
   Urine:
                                                                  3,750 mL
                                                                  1,380 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,518 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (430 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.33/66/141/31/6
   Ve: 10.4 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   10.1 g/dL
   214 mg/dL
   1.4 mg/dL
   31 mEq/L
   5.1 mEq/L
   30 mg/dL
   106 mEq/L
   143 mEq/L
   31.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2144-10-22**]  01:05 PM
                             [**2144-10-22**]  04:07 PM
                             [**2144-10-23**]  04:13 AM
                             [**2144-10-23**]  04:37 AM
                             [**2144-10-23**]  03:25 PM
                             [**2144-10-23**]  03:35 PM
                             [**2144-10-23**]  05:29 PM
                             [**2144-10-23**]  06:46 PM
                             [**2144-10-24**]  03:58 AM
                             [**2144-10-24**]  04:24 AM
   WBC
   4.7
   5.6
   Hct
   30.3
   37
   31.5
   Plt
   223
   230
   Cr
   1.6
   1.6
   1.5
   1.4
   TCO2
   29
   32
   34
   36
   36
   Glucose
   221
   257
   182
   214
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/27, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR: [**10-23**]:
   In comparison with the study of [**10-22**], there is little change in
   the appearance of the monitoring and support devices. Extensive
   opacification
   persists at the left base. Although this could merely represent volume
   loss,
   the possibility of superimposed pneumonia would have to be considered
   if there
   are appropriate clinical symptoms. Blunting of both costophrenic angles
   is
   seen.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2144-10-24**]):
         Feces negative for C.difficile toxin A & B by EIA.
   [**2144-10-23**] 11:59 pm Influenza A/B by DFA
         Source: Nasopharyngeal swab.
      DIRECT INFLUENZA A ANTIGEN TEST (Pending):
      DIRECT INFLUENZA B ANTIGEN TEST (Pending):
   Respiratory Viral Antigen Screen (Final [**2144-10-23**]):
         Positive for Influenza A viral antigen.
         Viral antigen identified by immunofluorescence
   BAL:
   GRAM STAIN (Final [**2144-10-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM with influenza induced ARDS
   .
   # ARDS: Failed removal of paralytics last night, likely his respiratory
   drive is too strong while his pH is so low. Will attempt to d/c
   paralytics again today with decreased rate allowing for larger tidal
   volumes.
   -Trial off paralytics today, decrease RR and increase TV to maximize
   exp. Time to avoid autopeep, decrease FiO2 to 50%
   - consider hold TFs while paralyzed
   - continue high dose sedation
   - ween steroids to prednisone daily
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment for 10 days
   - transition to pulmonary tube feeds to decrease RQ
   .
   # Shock: transient hypotension requiring mild Neosynepherin
   previously.  Likely from sedation and propofol. Has not reccured
   .
   # ARF: Slowly improving and [**Last Name (LF) 7633**], [**First Name3 (LF) **] have had a bit of
   ATN.
   - Continue to monitor, maintain euvolemia
   .
   .
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   Did not improve with decreased dose of steroids
   - insulin drip
   - uptitrate PRN
   .
   # HTN: BP becoming more elevated today.
   -Consider restarting home lisinopril 30mg PO daily now that renal
   function is improving
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: Hold TFs for now given high residuals
   # Access: CVL
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-24 09:43:00 Physician Attending Progress Note
HPI:
   51yoM with asthma; respiratory failure in setting of asthma and H1N1
   24 Hour Events:
   Bronchoscopy yesterday with patent ETT, clear secretions.
   Did not tolerate trial off paralytics yesterday as he developed severe
   respiratory distress.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-22**] 08:30 AM
   Infusions:
   Insulin - Regular - 7 units/hour
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Hydromorphone (Dilaudid) - 9 mg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2144-10-23**] 02:20 PM
   Furosemide (Lasix) - [**2144-10-23**] 02:26 PM
   Other medications:
   Prednisone 60mg daily
   PPI
   Albuterol nebs
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2144-10-24**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.1
   HR: 68 (67 - 118) bpm
   BP: 172/90(119) {131/69(88) - 191/101(135)} mmHg
   RR: 18 (0 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  2,632 mL
                                                                  1,981 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  2,366 mL
                                                                  1,881 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                  1,680 mL
   Urine:
                                                                  3,750 mL
                                                                  1,680 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,518 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (430 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.40/53/126/
   Ve: 10.2 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: Sedated/paralyzed
   Chest: Clear anterior; no wheeze
   CV: RRR
   Abd: s/nt/nd, decreased bowel sounds
   Ext: no edema
   Labs / Radiology
   10.1 g/dL
   230 K/uL
   214 mg/dL
   1.4 mg/dL
   31 mEq/L
   5.1 mEq/L
   30 mg/dL
   106 mEq/L
   143 mEq/L
   31.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2144-10-22**]  04:07 PM
                             [**2144-10-23**]  04:13 AM
                             [**2144-10-23**]  04:37 AM
                             [**2144-10-23**]  03:25 PM
                             [**2144-10-23**]  03:35 PM
                             [**2144-10-23**]  05:29 PM
                             [**2144-10-23**]  06:46 PM
                             [**2144-10-24**]  03:58 AM
                             [**2144-10-24**]  04:24 AM
                             [**2144-10-24**]  08:30 AM
   WBC
   4.7
   5.6
   Hct
   30.3
   37
   31.5
   Plt
   223
   230
   Cr
   1.6
   1.6
   1.5
   1.4
   TCO2
   32
   34
   36
   36
   34
   Glucose
   221
   257
   182
   214
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:33/40, Alk Phos / T Bili:42/0.1, Amylase /
   Lipase:/27, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Micro:
   Cdiff negative
   Persistent positive influenza A
   Gram stain - negative
   Assessment and Plan
   51yoM with asthma exacerbation in setting of H1N1
   1. Asthma and respiratory failure:
   - Treating underlying process with oseltamivir
   - Decrease prednisone to 50mg daily
   - Continue nebs
   - decrease RR and increase Vt in anticipation of being off paralytics
   today.
   - Decrease FiO2
   2. H1N1: persistent positive; suspect in setting of immunosuppression
   with prednisone necessary for asthma exacerbation
   - continue oseltamivir x 10 days
   3. Neuro: remains paralyzed/sedated
   - d/c paralytics today, maximize other medications
   4. CV: persistent HTN
   - Start captopril
   ICU Care
   Nutrition: Hold tube feeds given trial off paralytics
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: HOB, mouth care
   Communication:  Will update family
   Code status: Full code
   Disposition :Critically ill, remains in ICU
   Total time spent:  35minutes CCT

2144-10-25 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   Off paralytics at 11:30am, so far so good
   BS fine on minimal insulin gtt, held until TF restarted
   Decreased prednisone to 50mg
   Decreased FiO2 to 50%, RR down to 12, TV up to 550 to prolong exp. time
   Restarted home lisinopril (30mg) for persistent hypertension to 160s,
   then went down to 90s, decreased sedation and plan for only 10mg
   tomorrow
   Started having greenish urine, likely propofol, sent U/A and cx, added
   on LFTs and Triglycerides to AM labs
   Started slight dysynchrony with vent at 9pm, increased sedation
   Sats had trended down to 92% over the afternoon, was I/O positive,
   given 20mg IV lasix, FiO2 to 60% and PEEP to 10
   Difficult to pass suction catheter all the way in, ? ETT obstruction
   but no increase in pressures and CXR looks ok
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-22**] 08:30 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 7 mg/hour
   Hydromorphone (Dilaudid) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-24**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-24**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-25**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 90 (67 - 93) bpm
   BP: 108/59(74) {86/47(60) - 191/101(135)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 3 (2 - 19)mmHg
   Total In:
                                                                  3,862 mL
                                                                    275 mL
   PO:
   TF:
                                                                    115 mL
                                                                     15 mL
   IVF:
                                                                  3,617 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                    610 mL
   Urine:
                                                                  3,400 mL
                                                                    610 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    262 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.38/54/75/33/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   244 K/uL
   10.4 g/dL
   175 mg/dL
   1.5 mg/dL
   33 mEq/L
   5.2 mEq/L
   35 mg/dL
   105 mEq/L
   144 mEq/L
   32.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2144-10-23**]  03:35 PM
                             [**2144-10-23**]  05:29 PM
                             [**2144-10-23**]  06:46 PM
                             [**2144-10-24**]  03:58 AM
                             [**2144-10-24**]  04:24 AM
                             [**2144-10-24**]  08:30 AM
                             [**2144-10-24**]  12:42 PM
                             [**2144-10-24**]  04:50 PM
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
   WBC
   5.6
   7.5
   Hct
   37
   31.5
   32.6
   Plt
   230
   244
   Cr
   1.4
   1.5
   TCO2
   34
   36
   36
   34
   31
   34
   33
   Glucose
   214
   175
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/27, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: unchanged
   Microbiology: Urine cx [**10-24**]: pending
   C.diff [**10-23**]: negative
   GRAM STAIN (Final [**2144-10-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora
   Assessment and Plan
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM with influenza induced ARDS
   .
   # ARDS: So far tolerating off paralytics but requiring increased
   sedation. Worsening oxygenation likely from mild volume overload.
   -Diurese with goal I/O -[**Telephone/Fax (1) 179**]
   -Decrease PEEP and FiO2 as tolerated
   - continue high dose sedation
   - Con
t 50mg PO  prednisone daily
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment for 10 days
   - transition to pulmonary tube feeds to decrease RQ
   - One dose of methylnaltrexone today to stimulate gut and make sure
   absorbing oseltamivir.
   # ARF: Slightly worse today, likely from ACE added on
   yesterday.
   -Con't to monitor
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   Did not improve with decreased dose of steroids
   - insulin drip
   - uptitrate PRN
   .
   # HTN: BP too well controlled on home dose lisinopril 30mg
   -Reduce dose to 10mg today
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: Hold TFs for now given high residuals
   # Access: [**Last Name (LF) 1618**], [**First Name3 (LF) **]
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2144-10-25 10:36:00 Physician Attending Progress Note
HPI:
    51yoM with asthma and H1N1.
   24 Hour Events:
   Off paralytics since 1130 AM yesterday.  Had transient decrease in BP
   after initiation of lisinopril and required some fluids with
   improvement.  Later had increasing hypoxemia overnight and some
   dysynchrony; improved with diuresis on IV lasix.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 6 mg/hour
   Hydromorphone (Dilaudid) - 3 mg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-24**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-24**] 11:45 PM
   Osteltamivir
   Other medications:
   Zoloft
   Chlorhexidine
   Albuterol q4h standing; q2h prn
   Protonix
   Lisinopril 10mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2144-10-25**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 88 (76 - 98) bpm
   BP: 122/67(82) {86/47(60) - 144/76(95)} mmHg
   RR: 12 (8 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 3 (2 - 19)mmHg
   Total In:
                                                                  3,863 mL
                                                                    884 mL
   PO:
   TF:
                                                                    115 mL
                                                                     15 mL
   IVF:
                                                                  3,619 mL
                                                                    769 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,070 mL
   Urine:
                                                                  3,400 mL
                                                                  1,070 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    263 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   Vt (Spontaneous): 654 (654 - 654) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 12
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/58/103/33/5
   NIF: -30 cmH2O
   Ve: 8 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: Sedated, does not respond to voice or stimulus
   Chest: rhonchi in LLL
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   10.4 g/dL
   244 K/uL
   175 mg/dL
   1.5 mg/dL
   33 mEq/L
   5.2 mEq/L
   35 mg/dL
   105 mEq/L
   144 mEq/L
   32.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2144-10-23**]  05:29 PM
                             [**2144-10-23**]  06:46 PM
                             [**2144-10-24**]  03:58 AM
                             [**2144-10-24**]  04:24 AM
                             [**2144-10-24**]  08:30 AM
                             [**2144-10-24**]  12:42 PM
                             [**2144-10-24**]  04:50 PM
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
                             [**2144-10-25**]  08:13 AM
   WBC
   5.6
   7.5
   Hct
   37
   31.5
   32.6
   Plt
   230
   244
   Cr
   1.4
   1.5
   TCO2
   36
   36
   34
   31
   34
   33
   35
   Glucose
   214
   175
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/27, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Triglycerides: pending
   UA: negative
   Micro: sputum: 1+ polys; cultures negative so far
   Assessment and Plan
   51yoM with asthma secondary to H1N1
   1. Respiratory failure: slightly worsening oxygenation today; also with
   asthma
    - Diuresis today, aim TBB negative 1L; lasix 20mg IV
    -  continue nebs/prednisone 50mg
    -  Will attempt to wean fiO2/PEEP today if tolerates
   2. ID: WBC stable, minimal secretions; but changing LLL exam and CXR.
   Send sputum culture today if able.
   - Low threshold to initiate ABX for VAP; other potential sources could
   be sinusitis given drainage.
   - Hold currently, follow response of hypoxemia to diuresis.  If
   unimproved, can consider re-initation of ABX.
   3. Neuro:
    - elevated triglycerides; will decrease propofol, increase midazolam
   if needed.
   4. GI: starting methylnaltrexone for high residuals/high narcotic
   requirements.
   ICU Care
   Nutrition: Tube feeds held for high residuals.
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexidine
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT

2144-10-26 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-25**] Triglycerides high.  Started propofol wean.
   20 mg lasix x 2 for goal -1L
   Has remained off paralytics
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Hydromorphone (Dilaudid) - 3 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-25**] 10:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-26**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 76 (75 - 97) bpm
   BP: 115/67(81) {101/54(67) - 138/77(154)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  1,810 mL
                                                                    445 mL
   PO:
   TF:
                                                                     15 mL
   IVF:
                                                                  1,605 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                    720 mL
   Urine:
                                                                  2,820 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 654 (654 - 654) mL
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 12
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/61/80.[**Numeric Identifier 176**]/35/7
   NIF: -30 cmH2O
   Ve: 7.6 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   10.1 g/dL
   110 mg/dL
   1.3 mg/dL
   35 mEq/L
   4.8 mEq/L
   35 mg/dL
   105 mEq/L
   146 mEq/L
   31.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2144-10-24**]  08:30 AM
                             [**2144-10-24**]  12:42 PM
                             [**2144-10-24**]  04:50 PM
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
                             [**2144-10-25**]  08:13 AM
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
   WBC
   7.5
   7.3
   Hct
   32.6
   31.8
   Plt
   244
   255
   Cr
   1.5
   1.4
   1.3
   TCO2
   34
   31
   34
   33
   35
   33
   37
   Glucose
   175
   87
   110
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   51 y/o M with hx of asthma, CKD, DM with influenza induced ARDS
   .
   # ARDS: So far tolerating off paralytics but requiring increased
   sedation. Worsening oxygenation likely from mild volume overload.
   -Diurese with goal I/O -[**Telephone/Fax (1) 179**]
   -Decrease PEEP and FiO2 as tolerated
   - continue high dose sedation
   - Con
t 50mg PO  prednisone daily
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment for 10 days
   - transition to pulmonary tube feeds to decrease RQ
   - One dose of methylnaltrexone today to stimulate gut and make sure
   absorbing oseltamivir.
   # ARF: Slightly worse today, likely from ACE added on
   yesterday.
   -Con't to monitor
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   Did not improve with decreased dose of steroids
   - insulin drip
   - uptitrate PRN
   .
   # HTN: BP too well controlled on home dose lisinopril 30mg
   -Reduce dose to 10mg today
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN: Hold TFs for now given high residuals
   # Access: [**Last Name (LF) 1618**], [**First Name3 (LF) **]
   # Communication: with patient, daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-26 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   51yoM with asthma exacerbation secondary to H1N1.
   24 Hour Events:
   Persistent hypoxemia with FiO2 0.6/PEEP 10.
   Febrile yesterday.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-26**] 08:00 AM
   Infusions:
   Hydromorphone (Dilaudid) - 2.5 mg/hour
   Midazolam (Versed) - 5 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-25**] 10:49 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-26**] 08:00 AM
   Medications:
   Zoloft
   Chlorhexidine
   Pantoprazole
   Prednisone 50mg daily
   Lisinopril
   Albuterol inhalers
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-26**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 82 (75 - 97) bpm
   BP: 121/69(85) {101/54(67) - 138/77(154)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  1,810 mL
                                                                    673 mL
   PO:
   TF:
                                                                     15 mL
   IVF:
                                                                  1,605 mL
                                                                    613 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  1,040 mL
   Urine:
                                                                  2,820 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/61/80
   Ve: 8.2 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: sedated/intubated, responds to painful stimuli
   Chest: diffuse rhonchi, left-side with increased wheeze
   CV: RRR
   Abd: s/nt/nd
   Ext: Minimal edema
   Labs / Radiology
   10.1 g/dL
   255 K/uL
   110 mg/dL
   1.3 mg/dL
   35 mEq/L
   4.8 mEq/L
   35 mg/dL
   105 mEq/L
   146 mEq/L
   31.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2144-10-24**]  08:30 AM
                             [**2144-10-24**]  12:42 PM
                             [**2144-10-24**]  04:50 PM
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
                             [**2144-10-25**]  08:13 AM
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
   WBC
   7.5
   7.3
   Hct
   32.6
   31.8
   Plt
   244
   255
   Cr
   1.5
   1.4
   1.3
   TCO2
   34
   31
   34
   33
   35
   33
   37
   Glucose
   175
   87
   110
   Other labs: PT / PTT / INR:12.2/34.7/1.0, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Micro:
   Sputum: negative gram-stain
   Blood cultures negative
   CXR: increasing left-sided opacities
   Assessment and Plan
   51yoM with asthma exacerbation secondary to H1N1.
   1.  Respiratory failure: both hypoxemia, possibly component of volume,
   also possible H1N1 persistence, aspiration, or VAP. Secretions are
   clear, non-purulent
   - Plan TBB negative 1L today
   - Taper prednisone to 40mg
   - continue bronchodilators
   - At this time, greater suspicion for aspiration event and no clear
   evidence of infectious etiology; will continue to hold antibiotics but
   have low-threshold to cover for VAP.
   - Likely will need trach when oxygenation improves.
   2.  ID:  H1N1
   - oseltamivir
   3.  Renal:  Cr improving
   - TBB negative
   4.  GI: decreased motility. Started methylnaltrexone yesterday
   - add reglan today
   - bowel regimen
   5.  Neuro:
   - given high triglycerides, attempt to taper propofol today.
   ICU Care
   Nutrition: Tube feeds pending improved gut motility; if not improving,
   will need TPN.
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: heparin prophy
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Update family
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  30 minutes CCT

2144-10-27 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp. failure
   24 Hour Events:
 SPUTUM CULTURE - At [**2144-10-26**] 05:30 PM
 URINE CULTURE - At [**2144-10-26**] 05:30 PM
 BLOOD CULTURED - At [**2144-10-26**] 05:30 PM
   from TLC.
 BLOOD CULTURED - At [**2144-10-26**] 05:30 PM
   from a-line.
 FEVER - 101.2
F - [**2144-10-26**] 04:00 PM
   Tapered prednisone to 40mg QD
   got 20mg IV lasix
   Started on CPAP tolerated well for many hours
   Tolerated TFs
   Spiked fever to 101.2 and started on cefepime/vanc. Got erythematous
   rash on face after cefepime and during vanc. D/c'd cefepime as has
   allergy to augmentin w/ rash. Started aztreonam.
   Resent sputum culture
   Spoke w/ PCP [**Name9 (PRE) **] re: decision to trach and she will likely help
   discuss this w/ his family.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Tamiflu - [**2144-10-26**] 08:00 AM
   Cefipime - [**2144-10-26**] 05:30 PM
   Vancomycin - [**2144-10-26**] 06:00 PM
   Aztreonam - [**2144-10-27**] 03:00 AM
   Infusions:
   Hydromorphone (Dilaudid) - 2.5 mg/hour
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-26**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 74 (74 - 112) bpm
   BP: 101/53(66) {101/51(65) - 154/91(107)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 10 (8 - 11)mmHg
   Total In:
                                                                  1,835 mL
                                                                    505 mL
   PO:
   TF:
                                                                    195 mL
                                                                    113 mL
   IVF:
                                                                  1,455 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    700 mL
   Urine:
                                                                  3,135 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 449 (449 - 660) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.42/58/99.[**Numeric Identifier 508**]/34/10
   Ve: 7.3 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   247 K/uL
   10.2 g/dL
   147 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.7 mEq/L
   34 mg/dL
   107 mEq/L
   146 mEq/L
   32.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2144-10-24**]  04:50 PM
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
                             [**2144-10-25**]  08:13 AM
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
   WBC
   7.5
   7.3
   7.3
   Hct
   32.6
   31.8
   32.6
   Plt
   244
   255
   247
   Cr
   1.5
   1.4
   1.3
   1.2
   TCO2
   34
   33
   35
   33
   37
   39
   Glucose
   175
   87
   110
   147
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR [**10-27**], my read: slight bilatateral improvement
   Microbiology: GRAM STAIN (Final [**2144-10-25**]):
         [**9-13**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   GRAM STAIN (Final [**2144-10-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Blood/urine cx [**10-26**]: Pending
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE PAIN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM with influenza induced ARDS
   .
   # ARDS: pH not very acidotic as bicarb has increased, is now tolerating
   being off paralytics w/o significant dysynchrony. O2 requirement
   increased in the setting of worsening infiltrates and new fever, likely
   VAP. Started on vanc/cefepime but with rash to likely cefepime. Changed
   to aztreonam.  Sputum gs with GPCs and GNRs.
   -Diurese with goal I/O -[**Telephone/Fax (1) 179**]
   -Decrease PEEP and FiO2 as tolerated, plan for trach later this week as
   O2 requirement decreases
   - continue high dose sedation, weaning propofol
   -Little need for vanc given no GPCs growing and MRSA screen negative,
   d/c vanco
   -Start Meropenem at ID curbside recs
   - Con
t prednisone to 40mg QD
   - continuous high-dose alubterol nebs, added ipratroprium
   - oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment for 10 days,
   needs 1 more days
   - f/u sputum cultures
   # ARF: Improved
   -Con't to monitor
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   Will hold glargine and continue insulin ggt for now as he will likely
   be in the ICU for a prolonged period of time and TFs have been
   intermittent.
   - insulin drip
   .
   # Hypernatremia: Increase FW in tube feeds.
   .
   # HTN:
   - 10mg lisinopril
   # PPx: SQ hep, ompeprazole, bowel reg PRN
   # FEN:  TFs going well
   # Access: [**Last Name (LF) 1618**], [**First Name3 (LF) **]
   # Communication: with daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   # Code: full, confirmed
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-26**] 11:00 AM 15 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2144-10-27 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51yoM with asthma exacerbation secondary to H1N1
   24 Hour Events:
   Initiated abx yesterday because of fevers and possible PNA,.
   Developed drug rash.  Cefipime changed to aztreonam.
   Oxygenation improving as FiO2 to .5 from .6 yesterday.
   HTN this morning, started on clonidine.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2144-10-27**] 03:00 AM
   Vancomycin - [**2144-10-27**] 08:00 AM
   Tamiflu - [**2144-10-27**] 08:00 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-26**] 11:00 AM
   Pantoprazole (Protonix) - [**2144-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-27**] 08:00 AM
   Labetalol - [**2144-10-27**] 09:20 AM
   Other medications:
   Sertraline
   Chlorhexidine
   Albuterol/atrovent
   Clonidine
   Prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-27**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 82 (74 - 112) bpm
   BP: 192/105(138) {101/51(65) - 192/105(138)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 8 (8 - 11)mmHg
   Total In:
                                                                  1,835 mL
                                                                    894 mL
   PO:
   TF:
                                                                    195 mL
                                                                    163 mL
   IVF:
                                                                  1,455 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                  1,110 mL
   Urine:
                                                                  3,135 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 562 (449 - 660) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.43/55/65
   Ve: 8.8 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen: Eyes open but not tracking, does not respond to commands.
   Chest: rhonchi anterior, greater on left; occasional mild wheeze
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   10.2 g/dL
   247 K/uL
   147 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.7 mEq/L
   34 mg/dL
   107 mEq/L
   146 mEq/L
   32.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2144-10-24**]  10:19 PM
                             [**2144-10-25**]  03:20 AM
                             [**2144-10-25**]  08:13 AM
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
   WBC
   7.5
   7.3
   7.3
   Hct
   32.6
   31.8
   32.6
   Plt
   244
   255
   247
   Cr
   1.5
   1.4
   1.3
   1.2
   TCO2
   33
   35
   33
   37
   39
   38
   Glucose
   175
   87
   110
   147
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Micro:  Sputum cultures pending; gram-stain with sparse GNR.
   Blood cultures - pending
   CXR:  Improving left upper lobe infiltrates
   Assessment and Plan
   51yoM with asthma exacerbation secondary to H1N1, persistent
   respiratory failure.
   1.  Respiratory failure:  Resolving asthma exacerbation. Primary
   barriers to extubation include persistent hypoxemia (possible mild
   volume overload plus concern for PNA), and mental status.
   - continue antibiotics for VAP coverage
   - Diuresis today
   - Sedation plan as below
   - Will consider trach, pending ability to wean sedation and improvement
   in oxygenation
   - Plan to taper prednisone to 20mg tomorrow
   - continue bronchodilators
   - pO2 improved significantly with diuresis and suctioning
   2.  Neuro:  persistent encephalopathy on high dose sedation
   - Decrease versed and dilaudid today
   - clonidine both for HTN and central efffect
   3.  HTN:
   - Change lisiinopril to captopril
   - Clonidine 0.1mg tid both for HTN and neurologic effects
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2144-10-26**] 11:00 AM 15 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Arterial Line - [**2144-10-19**] 02:53 PM
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Prophylaxis:
   DVT: heparin prophy
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexidine
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35 minutes CCT

2144-10-28 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2144-10-28**] 01:43 AM
 ARTERIAL LINE - START [**2144-10-28**] 02:20 AM
 FEVER - 101.7
F - [**2144-10-27**] 08:00 PM
   Diuresed well
   Per ID antibiotic approvals, stopped vanc as not growing GPCs and MRSA
   screen negative, changed aztreonam to meropenem
   Changed lisinopril to captopril
   Started clonidine for increased BPs, then responded very well to
   several doses of IV haldol
   Weaned sedation, now responding to commands.
   Increased TFs
   Weaned FiO2 to 50%, tried to wean PEEP from 10 to 8 but desatted to 90%
   Restarted low-dose propofol
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)  Rash;
   Tetracycline Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape) Rash;
   Latex Rash;
   Iodine Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2144-10-26**] 05:30 PM
   Aztreonam - [**2144-10-27**] 03:00 AM
   Vancomycin - [**2144-10-27**] 08:00 AM
   Tamiflu - [**2144-10-27**] 08:00 AM
   Meropenem - [**2144-10-28**] 01:09 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Hydromorphone (Dilaudid) - 1 mg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-27**] 08:00 AM
   Labetalol - [**2144-10-27**] 09:20 AM
   Furosemide (Lasix) - [**2144-10-27**] 11:20 AM
   Haloperidol (Haldol) - [**2144-10-27**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-28**] 01:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (80 - 101) bpm
   BP: 162/89(112) {118/54(74) - 197/107(170)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
    CVP: 6 (-3 - 11)mmHg
   Total In:
                                                                  2,111 mL
                                                                    471 mL
   PO:
   TF:
                                                                    525 mL
                                                                    162 mL
   IVF:
                                                                  1,016 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  3,613 mL
                                                                    700 mL
   Urine:
                                                                  2,813 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,502 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (492 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.42/55/102/31/8
   Ve: 9.2 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   236 K/uL
   10.6 g/dL
   130 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   31 mg/dL
   105 mEq/L
   147 mEq/L
   32.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
   WBC
   7.3
   7.3
   8.7
   Hct
   31.8
   32.6
   32.1
   Plt
   255
   247
   236
   Cr
   1.4
   1.3
   1.2
   1.3
   TCO2
   33
   37
   39
   38
   39
   37
   Glucose
   87
   110
   147
   130
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Micro:
[**2144-10-26**] 5:33 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2144-10-26**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM with influenza induced ARDS
   .
   # Respiratory failure: ARDS from H1N1 and likely GNR pneumonia.  He is
   now tolerating being off paralytics w/o significant dysynchrony and his
   vent requirements are decreasing. O2 requirement increased in the
   setting of worsening infiltrates and new fever, likely VAP. Started on
   vanc/cefepime but with rash to likely cefepime. Changed to meropenem.
   -[**7-3**] day course of meropenem from [**10-26**] or [**10-27**] pending GNR
   speciation/sensitivities.
   -oseltamivir 150  mg [**Hospital1 7**] for high dose flu treatment for 10 days.
   Today is last day, will d/c tamiflu and precautions tomorrow.
   -Diurese with goal I/O -[**Telephone/Fax (1) 179**] with lasix
   -Decrease PEEP and FiO2 as tolerated
   -minimize long-acting sedation, avoiding high-dose propofol given
   triglycerides.  Will use presodex if needed.
   - haldol as adjunct
   - wean prednisone to 20mg QD
   - continuous high-dose alubterol nebs, added ipratroprium
   - f/u sputum cultures
   # ARF: Improved
   -Con't to monitor
   # DM: hyperglycemic with steroids, on glyburide at home occassionally.
   Will hold glargine and continue insulin ggt for now as he will likely
   be in the ICU for a prolonged period of time and TFs have been
   intermittent.
   - insulin drip
   # Hypernatremia: Increase FW in tube feeds. Up from 200 cc q6h to q4h
   today.
   # HTN:
   - ensure adequate sedation
   - captopril, clonidine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-28**] 03:06 AM 35 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Arterial Line - [**2144-10-28**] 02:20 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: omeprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   Code status: Full code
   Disposition: ICU

2144-10-28 10:21:00 Physician Attending Progress Note
Chief Complaint: Asthma secondary to H1N1
   HPI:
   50yoM with asthma exacerbation in setting of H1N1 infection.
   24 Hour Events:
   Discontinued vancomycin yesterday.
   Persistent fevers, cultures with only GNR currently.
   Stable on PSV.
   Required propofol for HTN/tachycardia; but mental status improving.
   Requiring q1-2h suctioning
 moderate secretions
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2144-10-26**] 05:30 PM
   Aztreonam - [**2144-10-27**] 03:00 AM
   Vancomycin - [**2144-10-27**] 08:00 AM
   Tamiflu - [**2144-10-27**] 08:00 AM
   Meropenem - [**2144-10-28**] 08:00 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Hydromorphone (Dilaudid) - 1 mg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-27**] 11:20 AM
   Haloperidol (Haldol) - [**2144-10-27**] 09:10 PM
   Pantoprazole (Protonix) - [**2144-10-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-28**] 08:00 AM
   Other medications:
   Zoloft
   Chlorhexadine
   Albuterol inhalers q4h
   Prednisone 40mg daily
   Senna
   clonidine 0.1mg tid
   Captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-28**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.2
C (100.8
   HR: 86 (80 - 101) bpm
   BP: 135/71(88) {118/54(74) - 197/107(170)} mmHg
   RR: 12 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
   CVP: 5 (-3 - 11)mmHg
   Total In:
                                                                  2,111 mL
                                                                    783 mL
   PO:
   TF:
                                                                    525 mL
                                                                    242 mL
   IVF:
                                                                  1,016 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  3,613 mL
                                                                    760 mL
   Urine:
                                                                  2,813 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,502 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 594 (492 - 594) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.42/55/102/31/8
   Ve: 5.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   236 K/uL
   130 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   31 mg/dL
   105 mEq/L
   147 mEq/L
   32.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2144-10-25**]  12:37 PM
                             [**2144-10-25**]  04:07 PM
                             [**2144-10-26**]  04:09 AM
                             [**2144-10-26**]  04:16 AM
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
   WBC
   7.3
   7.3
   8.7
   Hct
   31.8
   32.6
   32.1
   Plt
   255
   247
   236
   Cr
   1.4
   1.3
   1.2
   1.3
   TCO2
   33
   37
   39
   38
   39
   37
   Glucose
   87
   110
   147
   130
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Micro:  Sputum -
   Assessment and Plan
   51yoM with asthma secondary to H1N1.
   1.       Respiratory Failure:  Barriers to extubation include
   persistent hypoxemia, likely in setting of VAP; also secretions.
   - Overall improving, treating PNA.
   - suctioning to prevent plugging
   - TBB negative 1L today; lasix 20mg IV
   - Decrease prednisone to 20mg daily
   - Atrovent/albuterol
   - wean FiO2 and PEEP today
   2.       ID:  Gram-negative VAP, H1N1
   - complete oseltamivir today (D#10)
   -  plan 14 days of coverage gram-negatives
   3.       Renal: Cr baseline
   - TBB negative today
   - Free water repletion with hypernatremia
   4.       CV:  HTN, likely exacerbated by ventilator
   - continue to uptitrate anti-hypertensives as needed
   5.       Neuro:  Responds well to haldol
   - Standing haldol; check QTc
   - Try not to increase benzos if possible; would consider Precidex if
   remains hypertensive and anxious.
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2144-10-28**] 03:06 AM 35 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2144-10-20**] 02:31 PM
   Arterial Line - [**2144-10-28**] 02:20 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes CCT

2144-10-30 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2144-10-29**] 08:00 AM
 MULTI LUMEN - STOP [**2144-10-29**] 11:35 AM
   PIVs placed and CVL pulled, tip sent for culture
   Seen by speech and swallow who recommended nectar thick liquids and
   ground solids, however had delayed cough while eating pudding.
   Weaned to 4L NC
   Allergies:
   Augmentin   Rash;
   Tetracycline  unk
   Adhesive Tape Rash;
   Latex Rash;
   Iodine Wheezing
   Demerol Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-27**] 08:00 AM
   Tamiflu - [**2144-10-27**] 08:00 AM
   Meropenem - [**2144-10-30**] 01:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-29**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-30**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 72 (61 - 72) bpm
   BP: 150/95(107) {95/47(57) - 150/95(107)} mmHg
   RR: 57 (16 - 57) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,594 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                  1,594 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    300 mL
   Urine:
                                                                  2,235 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -891 mL
                                                                   -128 mL
   Respiratory support
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Gen: Less delirious,
   Heart: RRR, II/VI systolic murmur
   Lungs: Diffuse inspiratory and expiratory rhonchi
   Abd: Soft, NT, ND, BS+
   Ext: No edema, 2+ DP and PT pulses
   Labs / Radiology
   243 K/uL
   11.0 g/dL
   127 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   28 mg/dL
   106 mEq/L
   145 mEq/L
   34.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
                             [**2144-10-28**]  03:15 PM
                             [**2144-10-28**]  09:33 PM
                            [**2144-10-29**]  05:45 AM
                            [**2144-10-30**]  05:07 AM
   WBC
   7.3
   8.7
   9.3
   7.4
   Hct
   32.6
   32.1
   34.6
   34.9
   Plt
   247
   236
   234
   243
   Cr
   1.2
   1.3
   1.4
   1.2
   TCO2
   39
   38
   39
   37
   38
   34
   Glucose
   147
   130
   126
   127
   Other labs: PT / PTT / INR:13.7/27.3/1.2, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:9.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Microbiology: GNR workup pending
   Cath tip pending
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   51 y/o M with hx of asthma, CKD, DM with influenza-associated ARDS and
   VAP.
   .
   # Respiratory failure: ARDS [**12-23**] H1N1, now w/ VAP, stable on NC
   -[**7-3**] day course of meropenem from [**10-26**] or [**10-27**] pending GNR
   speciation/sensitivities.
   -Maintain euvolemia
   -Wean O2 as tolerated
   -wean prednisone to 10mg QD today
   -standing alubterol + atrovent nebs and prn
   -f/u sputum cultures
   -will need swallow re-eval given recent coughing on applesauce
   # ARF: Cr improved
   -continue to trend
   # DM: Doing better w/ taper steroids, off insulin gtt
   - subq insulin SSI
   # HTN:  120-150s systolics on home regimen of Lisinopril and dilt
   - continue to trend and uptitrate as tolerated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-28**] 03:06 AM 35 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   18 Gauge - [**2144-10-29**] 11:55 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: omeprazole
   VAP:  bundle
   Communication:  Comments: daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   Code status: Full code
   Disposition: ICU

2144-10-30 11:18:00 Physician Attending Progress Note
Chief Complaint: Asthma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51yoM with asthma secondary to H1N1.
   24 Hour Events:
   Improving oxygenation yesterday and able to be weaned to 4LNC.
   Evaluated by speech pathology yesterday.
   Improved delirium
                          History obtained from [**Hospital 15**] Medical records
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2144-10-30**] 08:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-10-29**] 05:00 PM
   Other medications:
   Ipatropium
   Albuterol
   Insulin sliding scale
   Diltiazem
   Prednisone 20mg daily
   Acetaminophen
   Lactulose
   PPI
   Sertraline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-30**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 78 (61 - 80) bpm
   BP: 135/86(97) {95/47(57) - 150/100(110)} mmHg
   RR: 21 (18 - 57) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,594 mL
                                                                    430 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  1,594 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    300 mL
   Urine:
                                                                  2,235 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -891 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Gen: awake, alert, oriented
   Chest:  Wheeze, rhonchi on left
   CV:  RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   11.0 g/dL
   243 K/uL
   127 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   28 mg/dL
   106 mEq/L
   145 mEq/L
   34.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2144-10-26**]  12:55 PM
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
                             [**2144-10-28**]  03:15 PM
                             [**2144-10-28**]  09:33 PM
                            [**2144-10-29**]  05:45 AM
                            [**2144-10-30**]  05:07 AM
   WBC
   7.3
   8.7
   9.3
   7.4
   Hct
   32.6
   32.1
   34.6
   34.9
   Plt
   247
   236
   234
   243
   Cr
   1.2
   1.3
   1.4
   1.2
   TCO2
   39
   38
   39
   37
   38
   34
   Glucose
   147
   130
   126
   127
   Other labs: PT / PTT / INR:13.7/27.3/1.2, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:9.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: No new CXR
   Microbiology: Sputum: sparse GNR, await species
   Assessment and Plan
   51yoM with asthma secondary to H1N1; complicated by GNR VAP, now
   extubated.
   1.       Asthma/respiratory failure:
   - continue to allow autodiuresis
   - bronchodilators
   -  restart advair 500/50 [**Hospital1 **]
   -  prednisone 10mg daily today
   2.       Neuro/MS: suspect critical illness myopathy, exacerbated by
   requirement of paralytics and steroids
   - physical therapy
   - OOB
   ICU Care
   Nutrition: await repeat swallow evaluation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-10-29**] 11:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Comments: Not intubated
   Communication:  Patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent:  30minutes

2144-10-31 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Flu
   24 Hour Events:
   Called out but called back in due to O2 requirement, needing 50-60%
   face tent to maintain sat>93%.
   S+S says normal diet.
   Foley pulled, mostly incontinent so outs likely more than recorded. Was
   at least a little negative at 3pm.
   Decreased prednisone to 10mg.
   Restarted home Advair.
   Gave 20mg IV lasix at 5pm given con't O2 requirement increase
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2144-10-31**] 12:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-30**] 05:29 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-31**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema, No(t) Orthopnea
   Respiratory: Cough, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2144-10-31**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 83) bpm
   BP: 133/89(99) {86/64(32) - 145/100(115)} mmHg
   RR: 22 (18 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,463 mL
                                                                    299 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    503 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                     40 mL
   Urine:
                                                                  1,260 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   231 K/uL
   11.1 g/dL
   126 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   34.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
                             [**2144-10-28**]  03:15 PM
                             [**2144-10-28**]  09:33 PM
                            [**2144-10-29**]  05:45 AM
                            [**2144-10-30**]  05:07 AM
                            [**2144-10-31**]  05:15 AM
   WBC
   7.3
   8.7
   9.3
   7.4
   6.9
   Hct
   32.6
   32.1
   34.6
   34.9
   34.1
   Plt
   247
   236
   234
   243
   231
   Cr
   1.2
   1.3
   1.4
   1.2
   1.1
   TCO2
   38
   39
   37
   38
   34
   Glucose
   147
   130
   126
   127
   126
   Other labs: PT / PTT / INR:14.8/29.5/1.3, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: GRAM STAIN (Final [**2144-10-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.
            DR. [**Last Name (STitle) **] #[**Numeric Identifier 12096**] REQUESTED FURTHER WORK UP.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
   286-7888G
            [**2144-10-28**].
   WOUND CULTURE (Preliminary):    No significant growth [**10-29**]
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   51 y/o M with hx of asthma, CKD, DM with influenza-associated ARDS and
   VAP.
   # Respiratory failure: ARDS [**12-23**] H1N1, now w/ VAP, stable on NC
   -[**7-5**] day course of meropenem from [**10-26**] or [**10-27**] pending GNR
   speciation/sensitivities.
   -Maintain euvolemia, goal I/O even to negative
   -Wean O2 as tolerated
   -wean prednisone to 10mg daily today
   -standing alubterol + atrovent nebs and prn
   -home Advair
   -f/u sputum cultures
   .
   # Flank pain: Patient states that his Left kidney hurts today. Pos. CVA
   tenderness but unlikely to be infection given already on meropenem.
   -Check U/A and cx.
   # ARF: Cr improved
   -continue to trend
   # DM: Doing better w/ taper steroids
   - subq insulin SSI
   # HTN:  120-150s systolics on home regimen of Lisinopril and dilt
   - continue to trend and uptitrate as tolerated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-28**] 03:06 AM 35 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   18 Gauge - [**2144-10-29**] 11:55 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: omeprazole
   Communication:  Comments: daughter [**Name (NI) **] HCP [**Telephone/Fax (1) 11829**]
   Code status: Full code
   Disposition: potentiel call out to floor today
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ASTHMA
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-10-29**] 11:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2144-10-31 08:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 y o man with asthma, here with asthma exaccerbation [**12-23**] H1N1
   24 Hour Events:
   1. Increasing hypoxemia yesterday, was on 50-60% FT o/n, then weaned
   back down to nasal cannula
   2. SLP evaluation yest, now on a regular diet
   3. foley d/ced
   4. Prednisone decreased to 10 mg, Advair restarted
   5. Got lasix with good UOP
                   History obtained from Patient
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Tetracycline
   Unknown;
   Adhesive Tape Wp (Topical) (Adhesive Tape)
   Rash;
   Latex
   Rash;
   Iodine
   Wheezing; Short
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2144-10-31**] 12:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-30**] 05:29 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-31**] 12:19 AM
   Other medications:
   Heparin SC
   Sertraline
   Diltiazem 60 tid
   Lisinopril 30 daily
   ISS
   Ipratropium
   Albuterol
   Colace, Senna
   PPI IV
   Prednisone 10 mg daily
   Advair 500/50
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-31**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 83) bpm
   BP: 133/89(99) {86/64(32) - 145/92(115)} mmHg
   RR: 22 (18 - 34) insp/min
   SpO2: 96% on 6L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 94.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,463 mL
                                                                    307 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    503 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                     40 mL
   Urine:
                                                                  1,260 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: 6L NC
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Gen: NAD, sitting up in chair
   Chest: scattered rales
 way up R and trace at L base, no wheezes
   CV: RRR, no murmurs audible
   Abd: soft NT/ND + BS
   Extr: warm, no edema
   Back: +TTP over L flank
   Labs / Radiology
   11.1 g/dL
   231 K/uL
   126 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   34.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2144-10-27**]  03:30 AM
                             [**2144-10-27**]  09:03 AM
                             [**2144-10-27**]  03:13 PM
                             [**2144-10-28**]  03:56 AM
                             [**2144-10-28**]  04:13 AM
                             [**2144-10-28**]  03:15 PM
                             [**2144-10-28**]  09:33 PM
                            [**2144-10-29**]  05:45 AM
                            [**2144-10-30**]  05:07 AM
                            [**2144-10-31**]  05:15 AM
   WBC
   7.3
   8.7
   9.3
   7.4
   6.9
   Hct
   32.6
   32.1
   34.6
   34.9
   34.1
   Plt
   247
   236
   234
   243
   231
   Cr
   1.2
   1.3
   1.4
   1.2
   1.1
   TCO2
   38
   39
   37
   38
   34
   Glucose
   147
   130
   126
   127
   126
   Other labs: PT / PTT / INR:14.8/29.5/1.3, CK / CKMB /
   Troponin-T:1231//, ALT / AST:26/43, Alk Phos / T Bili:42/0.2, Amylase /
   Lipase:/14, Differential-Neuts:89.7 %, Lymph:4.5 %, Mono:4.8 %, Eos:0.8
   %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:306 IU/L, Ca++:8.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Micro:
   [**10-26**]: sputum with rare GNRs, speciation still pending
   Assessment and Plan
   51yoM with asthma secondary to H1N1; complicated by GNR VAP, extubated
   on [**10-28**]; had tenuous oxygenation overnight, now  improved with gentle
   diuresis.
   1. Asthma/respiratory failure: initially respiratory failure [**12-23**] H1N1
   and asthma exaccerbation, then VAP with GNRs and now likely a component
   of mild volume overload
   - continue meropenem for VAP; still awaiting speciation of GNRs from
   sputum on [**10-26**]
   - advair 500/50 [**Hospital1 **]
   - weaned prednisone to 10mg daily
   - bronchodilators
   - continue goal TBB even to slightly negative
   2. Neuro/MS: suspect critical illness myopathy, exacerbated by
   requirement of paralytics and steroids
   - physical therapy
   - OOB
   - weaning steroids: down to 10 mg today
   3. DM: well-controlled on ISS
   4. HTN: BPs in good range
   - continue lisinopril, diltiazem
   5. Flank pain: c/o new L sided
kidney pain today
, + TTP over L flank.
   Has a h/o hydronephrosis.
   - Check UA, urine culture
   - Renal US
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2144-10-29**] 11:55 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  changing to PO PPI
   Communication:  with patient
   Code status: Full code
   Disposition : to floor later today if stable oxygenation on less FiO2
   Total time spent:  35 min CCT